US07713994B2
6-Furan-2-yl-4-[(4-pyrrolidin-1-ylmethyl-phenylamino)-methylene]-4H-isoquinoline-1,3-dione
To a suspension of 6-bromo-4-[(4-pyrrolidin-1-ylmethyl-phenylamino)-methylene]-4H-isoquinoline-1,3-dione (40 mg, 0.1 mmol) in N,N-dimethylformamide (1 mL) is added 2-furanboronic acid (11.2 mg, 0.1 mmol), followed by 60 μL of 2M aqueous cesium carbonate and tetrakis triphenylphosphine palladium (6 mg, 0.005 mmol). The reaction mixture is subjected to microwave heating at 150° C. for 100 seconds. The reaction mixture is then diluted to 2 mL with N,N-dimethylformamide and purified by C18 reverse phase HPLC. The pure fractions were combined and concentrated to yield Example 169.

reactant | 6-bromo-4-[(4-pyrrolidin-1-ylmethyl-phenylamino)-methylene]-4H-isoquinoline-1,3-dione | 0.1 mmol, 40 mg | BrC=1C=C2C(C(NC(C2=CC1)=O)=O)=CNC1=CC=C(C=C1)CN1CCCC1 | C21H20BrN3O2
reactant | 2-furanboronic acid | 0.1 mmol, 11.2 mg | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | cesium carbonate | 2M, 60 μL | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 6-Furan-2-yl-4-[(4-pyrrolidin-1-ylmethyl-phenylamino)-methylene]-4H-isoquinoline-1,3-dione | O1C(=CC=C1)C=1C=C2C(C(NC(C2=CC1)=O)=O)=CNC1=CC=C(C=C1)CN1CCCC1 | C25H23N3O3
